US08236813B2
(8) 2-{4-Amino-2-[(5-fluoro-4-methoxy-3-methylpyridin-2-yl)methyl]-2,7-dihydro-6-thia-1,2,3,5-tetraazabenzo-[cd]azulen-8-yl}-N-methylacetamide
Potassium carbonate (85 mg) and 2-(chloromethyl)-5-fluoro-4-methoxy-3-methylpyridine hydrochloride (52 mg) were added to an N,N-dimethylformamide (5 ml) solution of 2-(4-amino-2,7-dihydro-6-thia-1,2,3,5-tetraazabenzo[cd]azulen-8-yl)-N-methylacetamide trifluoroacetate (60 mg). The resulting mixture was stirred at 50° C. for 3.5 hours. Thereafter, insoluble matter was removed by filtration, and the filtrate was then concentrated. The residue was purified by silica gel column chromatography (chloroform-methanol), so as to obtain the title compound (30 mg) as a solid.

reactant | Potassium carbonate | 85 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(chloromethyl)-5-fluoro-4-methoxy-3-methylpyridine hydrochloride | 52 mg | Cl.ClCC1=NC=C(C(=C1C)OC)F
reactant | 2-(4-amino-2,7-dihydro-6-thia-1,2,3,5-tetraazabenzo[cd]azulen-8-yl)-N-methylacetamide trifluoroacetate | 60 mg | FC(C(=O)O)(F)F.NC=1C=2C=3C(C=C(C3CSN1)CC(=O)NC)=NNN2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-{4-Amino-2-[(5-fluoro-4-methoxy-3-methylpyridin-2-yl)methyl]-2,7-dihydro-6-thia-1,2,3,5-tetraazabenzo-[cd]azulen-8-yl}-N-methylacetamide | 30 mg | NC=1C=2C=3C(C=C(C3CSN1)CC(=O)NC)=NN(N2)CC2=NC=C(C(=C2C)OC)F | C19H20FN7O2S
